**************** Power Discrete MOSFET Electrical Circuit Model *****************
** Product Name: FCB36N60N
** 600V N-Channel MOSFET
** Model Type: BSIM3V3
**-------------------------------------------------------------------------------
.SUBCKT FCB36N60N 2 1 3    
*Nom Temp=25 deg C
Dbody 7 5    DbodyMOD
Dbreak 5 11  DbreakMOD
Ebreak 11 7 17 7 650
Lgate 1 9    1.183e-9
Ldrain 2 5   1.500e-9
Lsource 3 7  1.658e-9
RLgate 1 9   11.83
RLdrain 2 5  15.00
RLsource 3 7 16.58
Rgate 9 6    0.5
It 7 17      1
Rbreak 17 7  RbreakMOD 1
.MODEL RbreakMOD RES (TC1=1.24e-3 TC2=-1.15e-6)
.MODEL DbodyMOD D (IS=1.05e-12  N=1.0    RS=3.42e-3   TRS1=2.32e-3  TRS2=5.4e-6 
+ CJO=2.76e-8      M=0.76       VJ=0.48  TT=1.704e-6   XTI=3         EG=1.16)
.MODEL DbreakMOD D (RS=100e-3 TRS1=1.0e-3 TRS2=1e-6)
Rdrain 5 16 RdrainMOD 0.081
.MODEL RdrainMOD RES (TC1=8.88e-3 TC2=3.1e-5)
M_BSIM3 16 6 7 7 Bsim3 W=8.05 L=2.0e-6 NRS=1
.MODEL  Bsim3 NMOS (LEVEL=7 VERSION=3.1 MOBMOD=3 CAPMOD=2 PARAMCHK=1 NQSMOD=0
+ TOX=800e-10     XJ=1.4e-6      NCH=1.3e17
+ U0=700          VSAT=5.5e5     DROUT=1.0
+ DELTA=0.1       PSCBE2=0       RSH=1.0e-3
+ VTH0=3.10       VOFF=-0.1      NFACTOR=1.1
+ LINT=4.2e-7     DLC=4.2e-7     FC=0.5
+ CGSO=5.08e-14   CGSL=0         CGDO=4.16e-14
+ CGDL=5.12e-10   CJ=0           CF=0
+ CKAPPA=0.02     KT1=-1.27      KT2=0
+ UA1=-1.15e-9    NJ=10)
.ENDS

******************** Power Discrete MOSFET Thermal Model ************************
.SUBCKT FCB36N60N_Thermal TH TL
CTHERM1 TH 6 1.04e-5
CTHERM2 6 5  1.08e-4
CTHERM3 5 4  5.24e-4
CTHERM4 4 3  3.72e-3
CTHERM5 3 2  2.52e-2
CTHERM6 2 TL 3.82e-2
RTHERM1 TH 6 1.80e-4
RTHERM2 6 5  2.20e-3
RTHERM3 5 4  9.20e-3
RTHERM4 4 3  8.73e-2
RTHERM5 3 2  9.20e-2
RTHERM6 2 TL 2.09e-1
.ENDS FCB36N60N_Thermal 
**-------------------------------------------------------------------------------
** Creation: Apr.-22-2011   Rev.: 0.0
** Fairchild Semiconductor

